US05354880
To a 1-liter, high-pressure, stirred autoclave was added a mixture of 3-cyano-3-methylbutylmethyldimethoxysilane (631 grams, 3.13 moles) containing 12.0 grams of dissolved ammonia and 8.5 grams of nickel (5%) on kieselguhr. The autoclave was sealed, pressurized to 800 psi with hydrogen and heated for 10 hours. The contents were cooled and the product was collected, filtered, and distilled. The yield was 615.9 grams (95.9% yield after distillation) of 4-amino-3,3-dimethylbutylmethyldimethoxysilane, as characterized by 1H and 13C NMR spectroscopy.

reactant | 3-cyano-3-methylbutylmethyldimethoxysilane | 3.13 moles, 631 grams | C(#N)C(CC[Si](OC)(OC)C)(C)C | C9H19NO2Si
reactant | ammonia | 12.0 grams | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | nickel | 8.5 grams | [Ni] | Ni
product | 4-amino-3,3-dimethylbutylmethyldimethoxysilane | yield was 615.9 grams, 95.9% yield | NCC(CC[Si](OC)(OC)C)(C)C | C9H23NO2Si
